US06310161B1
Preparation of GDMA/3-methyl-3-butene-1-ol Product by Thermal Initiation
The flask was set up for reaction and agitation as described in Example 6. No heat was initially added to the flask containing the GDMA. The addition funnel containing the 3-methyl-3-butene-1-ol was placed on the second neck of the flask and a slow drip was started. The reaction exotherm was mild and the addition was completed in 40 minutes. The flask was then heated to 60° C. and held for one hour. Iodine titration indicated a significant amount of free thiol remaining (3.72 meq/g). Lupersol 575 (2.5 g) was added slowly. A significant exotherm occurred, after which the free thiol was measured to be 0.047 meq/gram. The material was then stored in dark high density polyethylene bottles.

reactant | GDMA | C(COC(=O)CS)OC(=O)CS | C6H10O4S2
reactant | 3-methyl-3-butene-1-ol | CC(CCO)=C | C5H10O
reactant | Iodine | II | I2
product | GDMA 3-methyl-3-butene-1-ol | C(COC(=O)CS)OC(=O)CS.CC(CCO)=C | InChI=1S/C6H10O4S2.C5H10O/c7-5(3-11)9-1-2-10-6(8)4-12;1-5(2)3-4-6/h11-12H,1-4H2;6H,1,3-4H2,2H3
